US08729274B2
cis-Ethyl 6-chloro-3a-methyl-3,3a,4,5-tetrahydro-1H-benzo[e]isoindole-2(9bH)-carboxylate (5.55 mmol, 1630 mg) was dissolved in water (33 ml), acetic acid (8.25 ml) and 1,4-dioxane (8.25 ml). Cerium(IV) oxide (1.276 mmol, 220 mg) and sodium bromate (5.55 mmol, 837 mg) were added and the reaction mixture was heated to 95° C. for 3 hours. The reaction mixture was cooled to rt, diluted with water (30 ml) and extracted with ether. The organic extracts were dried over magnesium sulphate, filtered and the solvent removed in vacuo to give to give a crude residue that was purified by silica column chromatography (eluting with 0-60% ethyl acetate in heptane) to give cis-ethyl 6-chloro-3a-methyl-5-oxo-3,3a,4,5-tetrahydro-1H-benzo[e]isoindole-2(9bH)-carboxylate (673 mg), m/z=308.7 [M+H]+.

reactant | cis-Ethyl 6-chloro-3a-methyl-3,3a,4,5-tetrahydro-1H-benzo[e]isoindole-2(9bH)-carboxylate | 5.55 mmol, 1630 mg | ClC1=CC=CC=2[C@H]3CN(C[C@]3(CCC21)C)C(=O)OCC | C16H20ClNO2
reactant | acetic acid | 8.25 ml | C(C)(=O)O | C2H4O2
reactant | Cerium(IV) oxide | 1.276 mmol, 220 mg | [O-2].[Ce+4].[O-2]
reactant | sodium bromate | 5.55 mmol, 837 mg | Br(=O)(=O)[O-].[Na+]
solvent | water | 33 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | 1,4-dioxane | 8.25 ml | O1CCOCC1 | C4H8O2
product | cis-ethyl 6-chloro-3a-methyl-5-oxo-3,3a,4,5-tetrahydro-1H-benzo[e]isoindole-2(9bH)-carboxylate | 673 mg | ClC1=CC=CC=2[C@H]3CN(C[C@]3(CC(C21)=O)C)C(=O)OCC | C16H18ClNO3
